US07192943B2
To a solution of the crude product of tert-butyl (5S)-6-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-5-{[3-(tert-butoxycarbonylamino)propionyl]amino}-6-oxohexylcarbamate and triethylamine (0.50 g) in chloroform (30 ml) was added triphenylmethyl chloride (1.37 g), and the mixture was stirred at room temperature for 16 hours. The reaction mixture was washed successively with 10% aqueous citric acid solution, brine and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 3% methanol/chloroform to give tert-butyl (5S)-5-{[3-(tert-butoxycarbonylamino)propionyl]amino}-6-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-6-oxohexylcarbamate (1.62 g) as an oil.

reactant | tert-butyl (5S)-6-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-5-{[3-(tert-butoxycarbonylamino)propionyl]amino}-6-oxohexylcarbamate | NC1=C(C=NN1C)NC([C@H](CCCCNC(OC(C)(C)C)=O)NC(CCNC(=O)OC(C)(C)C)=O)=O | C23H41N7O6
reactant | triethylamine | 0.50 g | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 1.37 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (5S)-5-{[3-(tert-butoxycarbonylamino)propionyl]amino}-6-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-6-oxohexylcarbamate | 1.62 g | C(C)(C)(C)OC(=O)NCCC(=O)N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C42H55N7O6
